US05631280
Step 1: Preparation of 3-chloromethyl-N-(2,3-dimethylphenyl)-benzamide (19)
To a solution of 3-chloromethylbenzoyl chloride (2.0 g) in methylene chloride (20 mL) was added 2,3- dimethylphenylaniline (1.28 g) and triethylamine (1.47 mL). The solution was stirred 18 h, concentrated in vacuo, and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was extracted w/50 mL each of 2% potassium hydrogen sulfate, saturated sodium bicarbonate, saturated sodium chloride, dried over magnesium sulfate and concentrated in vacuo. Upon concentration a precipitated formed which was collected and dried to obtained the product. NMR (300 MHz, DMSO-d6) δ 10.0 (1H, s), 8.02 (1H, s), 7.94 (1H, d, J=7 Hz), 7.63 (1H, d, J=7 Hz), 7.52 (1H, t, J=7 Hz). 7.10 (3H, s), 4.83 (2H, s), 2.27 (3H, s), 2.07 (3H, s).

reactant | 3-chloromethylbenzoyl chloride | 2.0 g | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | 2,3- dimethylphenylaniline | 1.28 g | CC1=C(C=CC=C1C)NC1=CC=CC=C1 | C14H15N
reactant | triethylamine | 1.47 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-chloromethyl-N-(2,3-dimethylphenyl)-benzamide | ClCC=1C=C(C(=O)NC2=C(C(=CC=C2)C)C)C=CC1 | C16H16ClNO
